US07429660B2
2-(2-Bromo-phenylsulfanyl) -5-nitro-benzoic acid
2-Bromobenzenethiol (7.2 ml, 85.9 mmol) was added to a solution of KOH (9.6 g, 172 mmol) in water (50 ml) degassed for 15 minutes. 2-Fluoro-5-nitrobenzoic acid (15.9 g, 85.9 mmol) was added to the reaction mixture, which was refluxed under a nitrogen atmosphere overnight. The reaction was cooled to room temperature and was acidified (pH 1) with conc. HCl. The precipitate formed was filtered and dried overnight in a vacuum oven (50° C.) to give the crude title compound as a pale yellow solid (30 g, 99%). The product was used without further purification. m/z (LC-MS, ESP), RT=4.51min, (M−−1)=352-354, (1:1, bromine isotope ratio present).

reactant | 2-Bromobenzenethiol | 85.9 mmol, 7.2 ml | BrC1=C(C=CC=C1)S | C6H5BrS
reactant | KOH | 172 mmol, 9.6 g | [OH-].[K+]
reactant | 2-Fluoro-5-nitrobenzoic acid | 85.9 mmol, 15.9 g | FC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C7H4FNO4
reactant | HCl | Cl | ClH
solvent | water | 50 ml | O | H2O
product | 2-(2-Bromo-phenylsulfanyl) -5-nitro-benzoic acid | 30 g, 99% | BrC1=C(C=CC=C1)SC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C13H8BrNO4S
